* C:\Users\Dell\Documents\GitHub\transistor-IF-stage\transistor-IF-stage.asc
* Generated by LTspice 24.1.9 for Windows.
L1 OUT 0 1µ Rser=0.3
L2 Vcc N002 315µ Rser=20
L3 N001 Vcc 113.5µ Rser=16
C1 N001 N002 122p
Q1 N002 A N003 0 BC547C
R4 N005 0 560
C2 N004 0 1n
C3 N001 A 220p
R1 Vcc B 47k
R2 B 0 3.9k
V§IN A B SINE(0 0.1 455k 0 0 0) AC 0.01 Rser=10
V1 Vcc 0 9V
C5 B 0 22n
C6 Vcc 0 47µ
R3 N003 N004 47
R§POT N004 N005 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\Dell\AppData\Local\LTspice\lib\cmp\standard.bjt
K L1 L2 L3 1
.tran 0 .7m .65m
;.ac dec 1000 10k 10Meg
* 455kHz IF Transformer
.four 455k V(OUT)
* 2.2K\nLIN
.backanno
.end
